US04298529
70% Perchloric acid (4.1 ml.) was added to a solution of 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 4.1 g.) at room temperature and stirred at the same temperature for 2 hours. After adjusting to pH 2.0 with 1 N sodium hydroxide aq. acetone was evaporated in vacuo from the resultant solution. Ethyl acetate (100 ml.) and a sodium chloride saturated aqueous solution (50 ml.) to the residue and the ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate (100 ml.) and combined with the ethyl acetate layer. The solution was washed with a sodium chloride saturated aqueous solution, dried over magnesium sulfate and evaporated in vacuo. The residue was pulverized with diisopropyl ether and the precipitates were collected by filtration to give 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 3.25 g.).

reactant | Perchloric acid | 4.1 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 7-(3-ethoxycarbonylhydrazono-2-methoxyiminobutyramido)-3-cephem-4-carboxylic acid | 4.1 g | C(C)OC(=O)NN=C(C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)C | C15H19N5O7S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid | 3.25 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(C)=O | C12H13N3O6S
